US07781426B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[(cyclobutylamino)methyl]-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (3.6 mg, 6.50×10−3 mmol) in dichloroethane (300 μL) was added acetaldehyde (40 μL, 0.709 mmol) and NaBH(OAc)3 (excess). The reaction was stirred at room temperature for 2 hours and then diluted with EtOAc (10 mL) and washed with brine (5 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by PTLC (25% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-{[cyclobutyl(ethyl)amino]methyl}-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.69 (25% EtOAc/hexanes). LCMS=583.2 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 7.90 (s, 1H), 7.80 (s, 2H), 7.54-7.52 (m, 3H), 5.74 (d, J=8.0 Hz, 1H), 4.99 (d, J=16.1 Hz, 1H), 4.65 (d, J=16.2 Hz, 1H), 4.04-3.98 (m, 1H), 3.64 (d, J=13.9 Hz, 1H), 3.47 (d, J=13.9 Hz, 1H), 3.18-3.12 (m, 1H), 2.48-2.39 (m, 2H), 1.98-1.92 (m, 2H), 1.87-1.74 (m, 2H), 1.67-1.58 (m, 2H), 0.90 (t, J=7.2 Hz, 3H), 0.80 (d, J=6.6 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-[(cyclobutylamino)methyl]-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 6.50×10−3 mmol, 3.6 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)CNC1CCC1)C)(F)F | C25H23F9N2O2
reactant | acetaldehyde | 0.709 mmol, 40 μL | C(C)=O | C2H4O
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 300 μL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-{[cyclobutyl(ethyl)amino]methyl}-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)CN(CC)C1CCC1)C)(F)F | C27H27F9N2O2
